US08278319B2
Stage 1: Methyl 2-(piperidin-2-yl)acetate hydrochloride
Thionyl chloride (5.5 ml, 75 mmol) was added to a solution of 2-carboxymethylpiperidine-1-carboxylic acid tert-butyl ester (6 g, 25 mmol) in methanol (60 ml) while stirring and the mixture was then refluxed for 16 h. The solvent was removed under vacuum and the crude product used in the next stage without purification. Yield: 90%

reactant | Thionyl chloride | 75 mmol, 5.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-carboxymethylpiperidine-1-carboxylic acid tert-butyl ester | 25 mmol, 6 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | methanol | 60 ml | CO | CH4O
product | Methyl 2-(piperidin-2-yl)acetate hydrochloride | Yield: 90% | Cl.N1C(CCCC1)CC(=O)OC | InChI=1S/C8H15NO2.ClH/c1-11-8(10)6-7-4-2-3-5-9-7;/h7,9H,2-6H2,1H3;1H
